US06921763B2
A mixture of N1-[4-(4-amino-1-trityl-1H-pyrazolo[3,4-d]pyrimidin-3-yl)-2-methoxyphenyl]-2-fluoro-4-trifluoromethylbenzamide (2.10 g, 1.75 mmol), 6 N aqueous hydrochloric acid (10 mL), p-dioxane (10 mL) and ethanol (8 mL) was heated at 50° C. for 6 hours. The mixture was filtered and the solid was washed with ethanol, dried in a vacuum oven over the weekend, and purified by flash column chromatography on silica to provide N1-[4-(4-amino-1H-pyrazolo[3,4-d]pyrimidin-3-yl)-2-methoxyphenyl]-2-fluoro-4-trifluoromethylbenzamide (0.35 g, 0.78 mmol). The filtrate was concentrated and purified by flash column chromatography on silica and preparative HPLC to provide the same product N1-[4-(4-amino-1H-pyrazolo[3,4-d]pyrimidin-3-yl)-2-methoxyphenyl]-2-fluoro-4-trifluoromethylbenzamide (0.67 g, 1.51 mmol) as a white solid: 1H NMR (DMSO-d6, 400 MHz) δ 13.58 (s, 1H), 9.90 (dd, 1H), 8.30(d, 1H), 8.23 (s, 1H), 8.05 (t, 1H), 7.90 (d, 1H), 7.75 (d, 1H), 7.36 (s, 1H), 7.24 (d, 1H), 3.94 (s, 3H); MS: MH+ 447.

reactant | N1-[4-(4-amino-1-trityl-1H-pyrazolo[3,4-d]pyrimidin-3-yl)-2-methoxyphenyl]-2-fluoro-4-trifluoromethylbenzamide | 1.75 mmol, 2.10 g | NC1=C2C(=NC=N1)N(N=C2C2=CC(=C(C=C2)NC(C2=C(C=C(C=C2)C(F)(F)F)F)=O)OC)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | C39H28F4N6O2
reactant | hydrochloric acid | 6 N, 10 mL | Cl | ClH
reactant | p-dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | ethanol | 8 mL | C(C)O | C2H6O
product | N1-[4-(4-amino-1H-pyrazolo[3,4-d]pyrimidin-3-yl)-2-methoxyphenyl]-2-fluoro-4-trifluoromethylbenzamide | 0.78 mmol, 0.35 g | NC1=C2C(=NC=N1)NN=C2C2=CC(=C(C=C2)NC(C2=C(C=C(C=C2)C(F)(F)F)F)=O)OC | C20H14F4N6O2
